US06239151B1
A solution of 1.5 g of benzyl-2(R)-[1(S)-(tert-butoxycarbonyl)-3-hydroxypropyl]-4-methylvalerate in 30 ml of dichloromethane was cooled to 0° C. under nitrogen and then treated with 3.3 ml of pyridine and 3.5 g of methanesulfonic anhydride. The mixture was stirred for 1 hour and then the solvent was evaporated. The residue was dissolved in ethyl acetate and washed sequentially with 2M aqueous hydrogen chloride, 5% aqueous sodium hydrogen carbonate and brine, and then dried over anhydrous magnesium sulfate. Filtration and evaporation gave a yellow oil which was purified by flash column chromatography, using ethyl acetate/hexane (2:8) for the elution, to give 1.07 g of benzyl-2(R)-[1(S)-(tert-butoxycarbonyl)-3-methanesulfonyloxypropyl]-4-methylvalerate in the form of a colorless oil.

reactant | benzyl-2(R)-[1(S)-(tert-butoxycarbonyl)-3-hydroxypropyl]-4-methylvalerate | 1.5 g | C(C1=CC=CC=C1)OC([C@H](CC(C)C)[C@H](CCO)C(=O)OC(C)(C)C)=O | C21H32O5
reactant | pyridine | 3.3 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 3.5 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | benzyl-2(R)-[1(S)-(tert-butoxycarbonyl)-3-methanesulfonyloxypropyl]-4-methylvalerate | 1.07 g | C(C1=CC=CC=C1)OC([C@H](CC(C)C)[C@H](CCOS(=O)(=O)C)C(=O)OC(C)(C)C)=O | C22H34O7S
